data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_249048_1,[C:1]([C:2]([O:6][C:3]([H:10])([H:11])[H:12])([O:7][H:8])[H:9])([C:4]([H:13])([H:14])[H:15])=[O:5]>>[C:1]1([C:4]([H:13])([H:14])[H:15])([O:6][C:3]([H:10])([H:11])[H:12])[C:2]([O:7][H:8])([H:9])[O:5]1,68.12328250000235
MR_20143_2,[C:1]1([O:6][H:7])([H:8])[C:2]([N:5]([H:11])[H:12])([H:9])[C:3]1([C:4]([H:13])([H:14])[H:15])[H:10]>>[C:1](\[C:2]([N:5]([H:11])[H:12])([H:8])[H:9])(=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:10])[O:6][H:7],52.69117500001386
MR_40706_1,[C:1](\[C:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])([O:6][H:8])[H:11])(=[N:5]/[H:9])[H:10]>>[C:1]([C:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])=[O:6])([N:5]([H:8])[H:9])([H:10])[H:11],31.4584574999391
MR_301980_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:7]([C:5]([H:20])([H:21])[H:22])=[O:10])[H:13])=[O:9])([O:8][H:11])[H:12]>>[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:6](=[C:2](\[C:4]([H:17])([H:18])[H:19])[H:13])[O:9][C:7]([C:5]([H:20])([H:21])[H:22])=[O:10])([O:8][H:11])[H:12],49.28761499997506
MR_441632_0,[C:1]([C:4]([N:2]([N:5]([H:9])[H:10])[H:8])=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[C:4](=[N:2]\[N:5]([H:9])[H:10])[C:3]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[H:8])([H:15])([H:16])[H:17],63.39130500000024
MR_206110_1,[C:1]1([C:2]([N:6]([C:5]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])([H:12])[H:13])([O:8][H:9])[C:3]([H:14])([H:15])[C:4]1([H:16])[H:17]>>[C:1](=[C:2]([H:12])[H:13])([C:3]([C:4]([N:6]([C:5]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])([H:16])[H:17])([H:14])[H:15])[O:8][H:9],69.88341999998141
MR_383284_0,[C:1](/[C:3](=[N:6]/[H:7])[H:10])(/[N:4]=[N:5]/[C:2]([H:11])([H:12])[H:13])([H:8])[H:9]>>[C:1](=[N:4][N:5]([C:2]([H:11])([H:12])[H:13])/[C:3](=[N:6]/[H:7])[H:10])([H:8])[H:9],55.38064000000077
MR_39280_0,[N:1](=[C:2](/[C:4](=[C:5]([H:11])[H:12])[H:10])[O:6][H:8])\[N:3]([H:7])[H:9]>>[N:1]([C:2]([C:4](=[C:5]([H:11])[H:12])[H:10])=[O:6])([N:3]([H:8])[H:9])[H:7],45.959982499958585
MR_105814_1,[C:1]([N:5]([N:4](/[C:6]([C:2]([H:14])([H:15])[H:16])=[C:7](/[C:3]([H:17])([H:18])[H:19])[H:10])[H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:5]([C:7]([C:3]([H:17])([H:18])[H:19])(/[C:6]([C:2]([H:14])([H:15])[H:16])=[N:4]\[H:8])[H:10])[H:9])([H:11])([H:12])[H:13],56.3093400000102
MR_372579_1,[C:1](/[N:4]=[N:7]/[H:11])([C:6]([C:2]([C:3]([H:19])([H:20])[H:21])([H:17])[H:18])([N:5]([N:8]([H:13])[H:14])[H:10])[O:9][H:12])([H:15])[H:16]>>[C:1]([N:4]([C:2]([C:3]([H:19])([H:20])[H:21])([H:17])[H:18])[N:7]([H:11])[H:12])([C:6]([N:5]([N:8]([H:13])[H:14])[H:10])=[O:9])([H:15])[H:16],61.37703000002077
MR_587173_0,[N:1]([C:2](/[N:4]=[N:5]/[H:10])=[N:6]/[H:11])([N:3]([H:8])[H:9])[H:7]>>[N:1](=[C:2](/[N:4]=[N:5]/[H:10])[N:6]([H:9])[H:11])\[N:3]([H:7])[H:8],55.53375000000656
MR_43502_0,[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])[N:4]([H:7])[C:5]1([O:6][H:8])[H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([N:4]([H:7])[H:8])[C:5](=[O:6])[H:9],38.495869999970296
MR_390268_0,[n:1]1([O:6][H:9])[c:3](=[O:8])[n:2]([H:11])[c:4]([O:7][H:10])[c:5]1[H:12]>>[N:1](=[C:5](/[C:4]1([O:7][H:10])[N:2]([H:11])[C:3]1=[O:8])[H:12])\[O:6][H:9],67.57798500002366
MR_343211_1,[C:1]([C:6]([N:4]([C:5](=[C:7]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[O:8][H:10])[H:11])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:6]([C:7]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])/[C:5](=[N:4]/[H:11])[O:8][H:10])=[O:9])([H:12])([H:13])[H:14],52.32345999997918
MR_38969_0,[C:1]([C:4]([C:2]([H:11])([H:15])[H:16])=[C:6]([C:3]([N:5]([H:8])[H:9])=[O:7])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([C:2]([H:11])([H:15])[H:16])[C:6]([H:10])=[C:3]([N:5]([H:8])[H:9])[O:7]1)([H:12])([H:13])[H:14],55.5350050000034
MR_315855_1,[C:1]([C:5]([C:2]([H:13])([H:14])[H:15])[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])([O:8][N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[C:5]([C:2]([H:13])([H:14])[H:15])[C:7]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])[O:8][N:6]([H:9])[H:10])([H:11])[H:12],44.70937499997717
MR_141604_1,[C@@:1]1([N:5]([H:12])[H:13])([H:7])[C@@:2]([N:6]([H:10])[H:11])([H:8])[C@:3]1([C:4]([H:14])([H:15])[H:16])[H:9]>>[C:1](\[C:2]([N:5]([H:12])[H:13])([N:6]([H:10])[H:11])[H:8])(=[C:3](/[C:4]([H:14])([H:15])[H:16])[H:9])[H:7],63.0129224999925
MR_593631_0,[C:1]([C:3](=[O:6])[H:9])([O:4][N:2]([H:7])[H:8])=[O:5]>>[C:1]([N:2]([H:7])[H:8])([O:4][C:3](=[O:6])[H:9])=[O:5],61.793062499969125
MR_449773_1,[C:1]([C:2]([H:11])([H:13])[H:14])([C:3]([H:12])([H:15])[H:16])([O:5][H:8])[N:7][C:4]([O:6][H:9])[H:10]>>[C:1]([C:2]([H:11])([H:13])[H:14])([C:3]([H:12])([H:15])[H:16])=[N:7][C:4]([O:5][H:8])([O:6][H:9])[H:10],55.79353499999272
MR_47261_0,[C:1](/[N:7]=[C:4](\[C:2]([H:11])([H:12])[H:13])[C:5]([C:3]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([H:8])([H:9])[H:10]>>[C:1]([N:7]1[C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([C:3]([H:14])([H:15])[H:16])[C:6]1([H:17])[H:18])([H:8])([H:9])[H:10],47.129642499966025
